US06482824B1
A stirred mixture of 2-(4-acetamidobenzenesulphonyl)-3, 6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl) -2H-1,2-oxazine (0.153 g) and powdered potassium hydroxide (40mg) in methanol (5 ml) was-heated under reflux for 24 h. The cooled mixture was diluted with dichloromethane and the solution washed with water. The dichloromethane solution was separated, dried over magnesium sulphate, filtered and evaporated to dryness. The residual oil was purified by chromatography on silica using ethyl acetate:n-hexane 3:2 as eluant to give 2-(4-aminobenzenesulphonyl)-3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine as a colourless foam. 1H NMR (CDCl3) δ 1.44(9H, m), 4.02(2H, q), 4.13(2H, br s), 4.44 (1H, m), 5.02(1H, br s), 5.70(1H, m), 6.61(2H, d), 6.83(2H, d), 7.13(2H, d), 7.65(2H, d).

reactant | 2-(4-acetamidobenzenesulphonyl)-3, 6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl) -2H-1,2-oxazine | 0.153 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N1OC(C(=CC1C)C)C1=CC=C(C=C1)OCC | C22H26N2O5S
reactant | potassium hydroxide | 40mg | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-aminobenzenesulphonyl)-3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine | NC1=CC=C(C=C1)S(=O)(=O)N1OC(C(=CC1C)C)C1=CC=C(C=C1)OCC | C20H24N2O4S
